US04119710
1-(4'-Amino-3'-cyano-5'-fluoro-phenyl)-2-isopropylamino-ethanol,
m.p. of the hydrochloride: 182°-184° C. (decomp.), was prepared from 4'-amino-3'-cyano-5'-fluoro-2-isopropylaminoacetophenone analogous to Example 49.

reactant | hydrochloride | Cl | ClH
reactant | 4'-amino-3'-cyano-5'-fluoro-2-isopropylaminoacetophenone | NC1=C(C=C(C=C1F)C(CNC(C)C)=O)C#N | C12H14FN3O
product | 1-(4'-Amino-3'-cyano-5'-fluoro-phenyl)-2-isopropylamino-ethanol | NC1=C(C=C(C=C1F)C(CNC(C)C)O)C#N | C12H16FN3O
